* Z:\mnt\design.r\spice\examples\1620S8.asc
XU1 N003 N005 N007 N001 0 N012 N013 N001 N002 0 N011 N001 IN N006 N008 N004 LTC1435A
M§Q1 N006 N011 0 0 Si4412DY
M§Q2 IN N004 N006 N006 Si4412DY
L1 N006 N009 27µ
R1 N009 OUT 25m
C1 N009 OUT .01µ
C2 N001 0 4.7µ
C3 N001 N013 100p
D1 N001 N008 1N5818
C4 N006 N008 .1µ
C5 OUT 0 220µ Rser=50m
C6 N005 0 .001µ
C7 N003 0 56p
V1 IN 0 23
R2 OUT N012 1.44Meg
R3 N012 0 110K
C8 OUT N012 100p
C9 N012 0 100p
R4 N001 N015 3K
R5 0 N015 15.75K
C10 N010 0 100p
C11 N007 N010 .033µ
R6 N010 0 1K
C12 N001 N014 .1µ
Rload OUT 0 10
XU2 N013 N007 0 OUT N009 N001 N015 N014 LT1620S8
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m startup
.lib LT1620S8.sub
.lib LTC1435A.sub
.backanno
.end
